US08729102B2
B) 1-(bromomethyl)-4-ethoxy-2-nitrobenzene
A mixture of 4-ethoxy-1-methyl-2-nitrobenzene (11.8 g), N-bromosuccinimide (17.4 g), 2,2′-azobisisobutyronitrile (1.07 g) and ethyl acetate (300 mL) was stirred under an argon atmosphere at 90° C. overnight. The solvent was evaporated under reduced pressure, and the residue was diluted with diethyl ether, and the mixture was washed three times with water. The separated organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a yellow oil (11.3 g).

reactant | 4-ethoxy-1-methyl-2-nitrobenzene | 11.8 g | C(C)OC1=CC(=C(C=C1)C)[N+](=O)[O-] | C9H11NO3
reactant | N-bromosuccinimide | 17.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 1.07 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-(bromomethyl)-4-ethoxy-2-nitrobenzene | 11.3 g | BrCC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C9H10BrNO3
